US06927230B2
Triethylamine (1.54 mL, 11 mmol) and then 4-cyanophenylhydrazine hydrochloride (1.71 g, 10 mmol) were added to a solution of trifluoroacetoamidine (1.57 g, 14 mmol) in methanol (10 mL). The mixture was stirred overnight. The solvent was removed under reduced pressure. 20 mL of water and 50 mL of ethyl acetate-tetrahydrofuran (9:1) were added to the residue and the organic layer was separated and the aqueous layer was extracted with 50 mL of ethyl acetate-tetrahydrofuran (9:1). A combined organic layer was washed with water and brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure. The residue was isolated by filtartion, washed with diisopropyl ether-hexane, and dried in vacuo to give 2,2,2-trifluoro-N′-(4-cyanophenyl)ethanehydrazonamide (2.07 g, 90.5% yield).

reactant | Triethylamine | 11 mmol, 1.54 mL | C(C)N(CC)CC | C6H15N
reactant | 4-cyanophenylhydrazine hydrochloride | 10 mmol, 1.71 g | Cl.C(#N)C1=CC=C(C=C1)NN
reactant | trifluoroacetoamidine | 14 mmol, 1.57 g | FC(C(=N)N)(F)F | C2H3F3N2
solvent | methanol | 10 mL | CO | CH4O
product | 2,2,2-trifluoro-N′-(4-cyanophenyl)ethanehydrazonamide | 2.07 g, 90.5% yield | FC(C(N)=NNC1=CC=C(C=C1)C#N)(F)F | C9H7F3N4
